US06897225B1
(5R,7S)-5-(4-Bromobenzyl)-3-(3,5-dichlorophenyl)-7-acetamido-1,3-diazabicyclo[3.3.0]octane-2,4-dione
To a solution of (5R,7S)-5-(4-Bromobenzyl)-3-(3,5-dichlorophenyl)-7-amino-1,3-diazabicyclo[3.3.0]octane-2,4-dione (0.103 g) in THF (4 mL) was added acetic anhydride (0.031 mL). After 5 hours, the reaction mixture was concentrated and purified by chromatography (silica gel: CH2Cl2, Chromatotron) to afford the titled compound (0.125 g). MS (m/z) 510 (MH+). mp 140.7° C.

reactant | (5R,7S)-5-(4-Bromobenzyl)-3-(3,5-dichlorophenyl)-7-amino-1,3-diazabicyclo[3.3.0]octane-2,4-dione | 0.103 g | BrC1=CC=C(C[C@]23C(N(C(N3C[C@H](C2)N)=O)C2=CC(=CC(=C2)Cl)Cl)=O)C=C1 | C19H16BrCl2N3O2
reactant | acetic anhydride | 0.031 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | (5R,7S)-5-(4-Bromobenzyl)-3-(3,5-dichlorophenyl)-7-acetamido-1,3-diazabicyclo[3.3.0]octane-2,4-dione | 0.125 g | BrC1=CC=C(C[C@]23C(N(C(N3C[C@H](C2)NC(C)=O)=O)C2=CC(=CC(=C2)Cl)Cl)=O)C=C1 | C21H18BrCl2N3O3
